US08252792B2
To a solution of 4-(2-hydroxy-1,1-dimethyl-ethyl)-piperazin-1-carboxylic acid tert-butyl ester (0.42 g) in anhydrous dichloromethane (10 mL) was added 2M hydrogen chloride (8.4 ml) and the mixture stirred for 12 hours. The solvent was evaporated to give 2-methyl-2-piperazin-1-yl-propan-1-ol hydrochloride salt as a white solid.

reactant | 4-(2-hydroxy-1,1-dimethyl-ethyl)-piperazin-1-carboxylic acid tert-butyl ester | 0.42 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CO)(C)C | C13H26N2O3
reactant | hydrogen chloride | 2M, 8.4 ml | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-methyl-2-piperazin-1-yl-propan-1-ol hydrochloride salt | Cl.CC(CO)(C)N1CCNCC1 | InChI=1S/C8H18N2O.ClH/c1-8(2,7-11)10-5-3-9-4-6-10;/h9,11H,3-7H2,1-2H3;1H
